US07576104B2
3-Chloro-N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-benzamide I-52
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2 mmol) in THF (30 ml) was added 3-chlorobenzoyl chloride (0.51 ml, 4 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid which was slurried in diethyl ether (20 ml) and filtered to give 0.82 g (100%) of product as an off-white solid: mp 257-259° C.; 1H NMR (DMSO-d6) d 11.06 (s, 1H), 10.43 (s, 1H), 8.50 (d, J=8.4 Hz, 1H), 7.99-7.88 (m, 3H), 7.75-7.61 (m, 3H), 5.17 (dd, J=5.5 and 12.7 Hz, 1H), 2.99-2.84 (m, 1H), 2.67-2.49 (m, 2H), 2.12-2.07 (m, 1H); 13C NMR (DMSO-d6) d 172.36, 169.78, 169.36, 167.59, 166.39, 163.57, 135.99, 135.31, 133.59, 132.11, 131.33, 130.73, 127.07, 126.76, 125.78, 118.93, 118.55, 48.91, 30.77, 21.85; Anal. Calcd. For C20H14ClN3O5: C, 58.33; H, 3.43; N, 10.20. Found: C, 58.38; H, 3.23; N, 9.95.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 3-chlorobenzoyl chloride | 4 mmol, 0.51 ml | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 3-Chloro-N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-benzamide | 0.82 g, 100% | ClC=1C=C(C(=O)NC2=C3C(N(C(C3=CC=C2)=O)C2C(NC(CC2)=O)=O)=O)C=CC1 | C20H14ClN3O5
